US07811642B2
33.2 g of 4-nitrobenzoic acid (200.0 mM), 24.4 g of 1,6-dibromohexane (100.0 mM) and 41.5 g of potassium carbonate (300.0 mM) were suspended in 200 ml of DMF and this mixture was stirred at 120° C. for 2 h. It was then cooled to 60° C., poured onto 600 ml of water and the resulting suspension was stirred for 5 min. The precipitate was filtered off and the still wet cake was refluxed for 1 h in 300 ml of ethanol. It was then cooled to room temperature and filtered. The cake was washed with ethanol and dried to give 40.3 g (96.8 mM, 97%) of 6-[(4-nitrobenzoyl)oxy]hexyl 4-nitrobenzoate as a pale yellow powder.

reactant | 4-nitrobenzoic acid | 200.0 mM, 33.2 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 1,6-dibromohexane | 100.0 mM, 24.4 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 300.0 mM, 41.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 600 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 6-[(4-nitrobenzoyl)oxy]hexyl 4-nitrobenzoate | 96.8 mM, 40.3 g, 97% | [N+](=O)([O-])C1=CC=C(C(=O)OCCCCCCOC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C20H20N2O8
